US04228167
A mixture of 3.3 g of 6-chloro-1,4-dihydro-2-(γ-hydroxypropylamino)-1-methyl-4-phenylquinazoline, 3.6 g of thionyl chloride and 50 ml of chloroform was stirred at room temperature overnight, and refluxed for an additional 2 hours. The reaction mixture was concentrated to dryness under reduced pressure to give 3.5 g of 6-chloro-1,4-dihydro-2-(γ-chloropropylamino)-1-methyl-4-phenylquinazoline as a residue. To the residue were added 100 ml of dry ethanol and 2.8 g of potassium carbonate and the resulting mixture was heated under reflux for 5 hours. After cooling, insoluble material was filtered off and the filtrate was concentrated to dryness. The residue was chromatographed on activated alumina using chloroform as an eluent to give 8-chloro-11-methyl-6-phenyl-3,4,6,11-tetrahydro-2H-pyrimido[2,1-b]quinazoline.

reactant | 6-chloro-1,4-dihydro-2-(γ-hydroxypropylamino)-1-methyl-4-phenylquinazoline | 3.3 g | ClC=1C=C2C(N=C(N(C2=CC1)C)NCCCO)C1=CC=CC=C1 | C18H20ClN3O
reactant | thionyl chloride | 3.6 g | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 6-chloro-1,4-dihydro-2-(γ-chloropropylamino)-1-methyl-4-phenylquinazoline | 3.5 g | ClC=1C=C2C(N=C(N(C2=CC1)C)NCCCCl)C1=CC=CC=C1 | C18H19Cl2N3
